US04882432
N-[2-[4-(3-chlorophenyl)-1-piperazinyl]ethyl]-N'-tricyclo[3.3.1.1(3,7)]dec-1-ylurea
To a stirred suspension of 1-adamantanamine hydrochloride (1.0 gm, 0.0053 mol) and triethylamine (2.2 gm, 0.021 mol) in 25 ml of dry methylene chloride under a dry nitrogen atmosphere was added, dropwise, trichloromethyl chloroformate (1.15 gm, 0.0027 mol). The resulting suspension was refluxed for three hours, and then a solution of 2-[4-(3-chlorophenyl)-1-piperazinyl]ethylamine (1.28 gm, 0.0053 mol) in 15 ml of dry methylene chloride was added. The resulting mixture was allowed to stir at room temperature overnight. The reaction mixture was then diluted to 200 ml with methylene chloride, washed with 3% aqueous sodium bicarbonate solution, dried over anhydrous sodium sulfate, and concentrated on a rotary evaporator. The title compound (TLC on silica gel using a 5% methanol in ethyl acetate solvent system, Rf=0.43) was isolated by preparatory high pressure liquid chromatography (HPLC) on silica gel (using a gradient consisting of from 10% ethyl acetate in hexane to 20% methanol in ethyl acetate) and recrystallized from methylene chloride/hexane (1.51 gm, 68% of theory), mp.=136°-137° C.

reactant | 1-adamantanamine hydrochloride | 0.0053 mol, 1.0 gm | Cl.C12(CC3CC(CC(C1)C3)C2)N
reactant | triethylamine | 0.021 mol, 2.2 gm | C(C)N(CC)CC | C6H15N
reactant | trichloromethyl chloroformate | 0.0027 mol, 1.15 gm | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | 2-[4-(3-chlorophenyl)-1-piperazinyl]ethylamine | 0.0053 mol, 1.28 gm | ClC=1C=C(C=CC1)N1CCN(CC1)CCN | C12H18ClN3
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | N-[2-[4-(3-chlorophenyl)-1-piperazinyl]ethyl]-N'-tricyclo[3.3.1.1(3,7)]dec-1-ylurea | ClC=1C=C(C=CC1)N1CCN(CC1)CCNC(=O)NC12CC3CC(CC(C1)C3)C2 | C23H33ClN4O
